US06420426B1
Methyl 2,4-dihydroxybenzoate (8.60 g, 51.2 mmol) was dissolved in acetone (125 mL, 0.4 M) then treated with K2CO3 (27.2 g, 196.8 mmol) and allyl bromide (6.0 mL, 8.39 g, 69.3 mmol). The reaction was heated at 60° C. for 20 h then acidified to pH 1-2 with 2 N HCl and extracted with Et2O (4×). The combined extracts were washed with saturated aq NaCl (2×), dried over Na2SO4, filtered and concentrated to give 5-allyloxy-2-hydroxy-benzoic acid methyl ester as a crude yellow oil (6.11 g, 57%): 1H NMR (DMSO-d6, 300 MHz) 8 10.74 (s, 1H), 7.69 (d, J=8.4 Hz, 1H), 6.55-6.51 (m, 2H), 6.08-5.94 (m, 1H), 5.38 (dd, J1=1.8 Hz, J2=16.8 Hz, 2H), 4.61 (d, J=5.4 Hz, 2H), 3.81 (s, 3H).

reactant | Methyl 2,4-dihydroxybenzoate | 51.2 mmol, 8.60 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | K2CO3 | 196.8 mmol, 27.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 69.3 mmol, 6.0 mL, 8.39 g | C(C=C)Br | C3H5Br
reactant | HCl | 2 N | Cl | ClH
solvent | acetone | 0.4 M, 125 mL | CC(=O)C | C3H6O
product | 5-allyloxy-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OCC=C)O)=O | C11H12O4
